US09029531B2
trans-2,2′-(cyclopropane-1,2-diyl)diacetonitrile I-4 (1 equivalent) was dissolved in TFA (2.0 mL) and thiosemicarbazide (2 equivalents) was added to it. The reaction mixture was refluxed for 3 h at 100° C. before quenching by careful addition of a saturated solution of NaHCO3 at 0° C. to bring the pH around 8-9. The solid precipitated was filtered and further purified to obtain trans-5,5′-(-cyclopropane-1,2-diylbis(methylene))bis(1,3,4thiadiazol2-amine) I-5.

reactant | trans-2,2′-(cyclopropane-1,2-diyl)diacetonitrile | [C@@H]1([C@@H](C1)CC#N)CC#N | C7H8N2
reactant | thiosemicarbazide | 2 equivalents | NNC(=S)N | CH5N3S
solvent | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | trans-5,5′-(-cyclopropane-1,2-diylbis(methylene))bis(1,3,4thiadiazol2-amine) | [C@@H]1([C@@H](C1)CC1=NN=C(S1)N)CC1=NN=C(S1)N | C9H12N6S2
